US07192968B2
4-(4-Methoxycarbonylphenyl)pyridine N-oxide
Methyl 4-(4-pyridyl)benzoate (1.49 g) was dissolved in dichloromethane (30 ml), 70% m-chloroperbenzoic acid (3.46 g) was added, and the mixture was stirred at room temperature for 1 hour. An aqueous solution of sodium sulfite was added to conduct liquid separation. The resultant organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate and then dried over anhydrous sodium sulfate. The solvent was distilled off to obtain the title compound (1.33 g) as white powder.

reactant | Methyl 4-(4-pyridyl)benzoate | 1.49 g | N1=CC=C(C=C1)C1=CC=C(C(=O)OC)C=C1 | C13H11NO2
reactant | m-chloroperbenzoic acid | 3.46 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 4-(4-Methoxycarbonylphenyl)pyridine N-oxide | 1.33 g | COC(=O)C1=CC=C(C=C1)C1=CC=[N+](C=C1)[O-] | C13H11NO3
